Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tricyclic Compounds
 
Attending: ___.
 
Chief Complaint:
skin itching
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ 2 weeks of diffuse erythema and scaling of skin.

Per ED, has 2 weeks of diffuse erythema and scaling of skin,
sparing eyes, lips, genitals, and palms of hands.  She has also
had bilateral leg swelling over the last weak. She has been
taking hot showers for the itching. Denies new medications or
lotions. She may have been taking triamcinolone over the last
month. Has history of eczema.  Per nursing she also had
difficulty breathing in the shower.

Seen in ___ clinic and sent in.  Derm recs:
-Please draw CBC with differential, comprehensive metabolic 
panel
-IV fluids per primary team
-Consider initiation of antibiotic (i.e. Keflex)given high risk
for secondary superinfection
-Betamethasone 0.05% ointment under Saran wrap occlusion to all
affected areas
-Prelim results from biopsy should be available within 24 hours
- will require admission to follow up on biopsy, steroid
application vs systemic steroids.

I reviewed VS, labs, orders, imaging, old records, meds.

Tm 100.7, HR 115 on admit, now ___, otherwise stable

___ 08:00PM BLOOD WBC: 13.5* Eos: 20.4* AbsNeut: 6.90*
AbsMono: 0.97* AbsEos: 2.76* 
___ 08:00PM BLOOD Albumin: 3.0* Creat: 0.9 
___ 10:18PM OTHER BODY FLUID FluAPCR: NEGATIVE FluBPCR:
NEGATIVE 
___ 10:36 pm BLOOD CULTURE
  
   Blood Culture, Routine (Pending): 
  
   Blood Culture, Routine (Pending): 
 
___ 21:54 IV CeFAZolin  ___ Started  
___ 22:30 IV CeFAZolin 1 g ___ Stopped (___)  
___ 22:39 IVF  NS  ___ Started  
___ 23:57 TP Betamethasone Dipro 0.05% Oint 1 Appl
___  
___ 00:30 IVF  NS 1000 mL ___ Stopped (1h ___ 


___ 01:22 IVF  NS  ___ Started  
___ 04:36 IVF  NS 1000 mL ___ Stopped (3h ___ 


EKG reviewed - sinus tach qrs 79 qtc ___ inversion or 
stemi

Reviewed derm office note.  Has had exzema for ___ years with
erythroderma now, had an allergist before, she had a rash 6
months ago which was itchy, allergy testing done, was allergic 
to
cats and dogs, though this hasn't bother her before.  She got
dexamethasone for ___ months at that time.  She tapered off the
steroids, and a rash started on her neck and arms that spread to
trunk.    She had a 1 week hx of chills and thirst.  Denies new
meds, travel, OTC's, herbals, travel, lives with roommate.  Got
prednisone from PCP ___.  She has multiple ER visits for
eczema.  they noted on exam:
-Erythroderma with lichenification and scaling involving 95% of
total body surface area with notable sparing along the central
face 
-Scalp with thick serous crust and diffuse scaling on a
background of confluent erythema
-Scaling along the webspaces of the hands
-Significant proximal nail fold edema and erythema with 
fissuring
and scaling.  Patient has acrylic nails and she reports that she
has had loss of all nails for the past several years
-Significant lower extremity edema

There was a concern of eczema flare vs PRP vs CTCL vs other. 
They requested her to go to ED for work up due to concern for
high output heart failure and dehydration.  Clinic work up did a
scabies prep negative, punch bx of right flank sent for RUSH dx,
derm c/s.  Their w/u requests as above.

___ d/w patient who reiterated information above.  She notes years
of painful skin with itching, now worsening over days, a/w
chills.  Denies SOB, nausea, vomiting, fever.  

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PMH-eczema, depression
___ years
Seizure: ___ seizure ,
ECZEMA ,
RIGHT WRIST FX,
tonseillectomy
polysubstance abuse - crack cocaine, alcohol, 

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: diffuse erythematous, scaling skin on hands, arms, legs,
abdomen, back, face, scalp
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 10:05AM BLOOD WBC-7.9 RBC-3.74* Hgb-11.4 Hct-34.9 
MCV-93 MCH-30.5 MCHC-32.7 RDW-13.7 RDWSD-46.4* Plt ___
___ 08:00PM BLOOD Neuts-51.2 ___ Monos-7.2 
Eos-20.4* Baso-0.4 Im ___ AbsNeut-6.90* AbsLymp-2.75 
AbsMono-0.97* AbsEos-2.76* AbsBaso-0.06
___ 10:05AM BLOOD ___ PTT-31.2 ___
___ 10:05AM BLOOD Glucose-108* UreaN-5* Creat-0.7 Na-145 
K-4.3 Cl-108 HCO3-24 AnGap-13
___ 08:00PM BLOOD ALT-20 AST-20 AlkPhos-63 TotBili-0.2
___ 10:05AM BLOOD Calcium-7.7* Phos-3.5 Mg-1.6
___ 08:00PM BLOOD Albumin-3.0*
___ 03:50PM BLOOD HIV Ab-NEG
___ 03:50PM BLOOD HCV Ab-NEG
___ 08:05PM BLOOD Lactate-2.0
___ 03:50PM BLOOD QUANTIFERON-TB GOLD-PND
 
Brief Hospital Course:
___ w/ hx eczema, depression, seizure d/o last in ___, 
polysubstance abuse w/ crack and EtOH p/w 2 weeks of diffuse 
erythema and scaling of skin.

Rash
Atopic dermatitis +/- inflammatory process
Patient with significant rash with ___ bx suggestive of 
atopic dermatitis.  However, there is deeper inflammation and 
eosinophils which may suggest an alternative etiology.  HIV and 
HCV are negative.  She may have a component of bacterial 
superinfection as well.  Ultimate treatment will require final 
biopsy results and will be coordinated by the dermatology team.
- Cont betamethasone cream to body, 14 days on, 14 days off via 
wrap as she can tolerate on discharge
- Tacrolimus cream to face
- Keflex x10 days
- f/u cx results
- dermatology follow up to be arranged and they will follow up 
bx

Eosinophilia:
This may be related to her skip eruption vs an alternative 
process.  Her levels should be trended if this does not improve 
with treatment of the above, then hematology referral would be 
appropriate

Depression
-c/u aripiprazole, bupropion, fluoxetine
-c/u trazodone

Seizure d/o last in ___
-off AED's monitor

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN 
2. TraZODone 100 mg PO QHS:PRN insomnia 
3. FLUoxetine 20 mg PO DAILY 
4. BuPROPion XL (Once Daily) 150 mg PO DAILY 
5. ARIPiprazole 30 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Betamethasone Dipro 0.05% Cream 1 Appl TP BID 
apply to body only, no face, 14 days on, 14 days off 
RX *betamethasone, augmented 0.05 % apply to affected body 
surfaces twice a day Disp #*50 Gram Gram Refills:*3 
3.  Cephalexin 500 mg PO Q6H Duration: 9 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*36 Capsule Refills:*0 
4.  tacrolimus 0.1 % topical DAILY 
to face 
RX *tacrolimus 0.1 % Apply to affected area on face once a day 
Refills:*0 
5.  ARIPiprazole 30 mg PO DAILY  
6.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
7.  FLUoxetine 20 mg PO DAILY  
8.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  
9.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diffuse rash - atopic dermatitis +/- other
Eosinophilia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of a diffuse body rash.  Biopsy 
was performed.  Preliminarily we see atopic dermatitis and 
inflammation which is possibly related to an allergic reaction.

Please continue your betamethasone cream to your body, twice 
daily, 14 days on, 14 days off.  You will be given a short 
course of antibiotics and tacrolimus cream to your face.  You 
will need to follow up closely with dermatology for ongoing 
care.  Your final biopsy results are PENDING.
 
Followup Instructions:
___